US04470986
2-Aminomethyl-4-(3-methoxycarbonylpropyl)pyridine (0.11 g) is heated at 90° in 0.5 ml of 97% formic acid for 18 hours. The reaction is cooled to room temperature, made basic with ammonium hydroxide solution and extracted with methylene chloride (4×20 ml). The organic extracts are dried over sodium sulfate and evaporated to yield 2-(N-formylaminomethyl)-4-(3-methoxycarbonylpropyl)pyridine; IR (CH2Cl2) 1735, 1685 cm-1.

reactant | 2-Aminomethyl-4-(3-methoxycarbonylpropyl)pyridine | 0.11 g | NCC1=NC=CC(=C1)CCCC(=O)OC | C11H16N2O2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | formic acid | 0.5 ml | C(=O)O | CH2O2
product | 2-(N-formylaminomethyl)-4-(3-methoxycarbonylpropyl)pyridine | C(=O)NCC1=NC=CC(=C1)CCCC(=O)OC | C12H16N2O3
